US04853410
By the two-step method of Preparations G1/G2 and G3/G4, 3-methyl-4-nitrophenol and 3-chlorophenol were reacted with beta-butyrolactone and the intermediate phenoxybutyric acid derivative cyclized to form, respectively, 2,7-dimethyl-6-nitrochroman-4-one [overall yield 13.0%; m.p. 110°-113° C.;

reactant | 3-methyl-4-nitrophenol | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | beta-butyrolactone | C1(CC(C)O1)=O | C4H6O2
product | phenoxybutyric acid | yield 13.0% | O(C1=CC=CC=C1)C(C(=O)O)CC | C10H12O3
